US08729274B2
cis-2-Benzyl-6-cyclopropyl-3a-methyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole (0.359 mmol, 75 mg) was dissolved in toluene (1 ml). ACE-Cl (1.654 mmol, 182 μl) was added and the reaction mixture; was heated in a microwave reactor at 160° C. for 15 minutes. MeOH (1 ml) was added and the mixture was again heated in a microwave reactor at 160° C. for 5 minutes. The resulting mixture was passed through an SCX cartridge and the resulting filtrate was concentrated in vacuo to give a crude residue that was purified by preparative-HPLC. To the pure fractions was added HCl in ether (1 ml) and the resulting solution was concentrated in vacuo to afford cis-6-cyclopropyl-3a-methyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole hydrochloride (8.8 mg), m/z: 228.2 [M+H]+.

reactant | cis-2-Benzyl-6-cyclopropyl-3a-methyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole | 0.359 mmol, 75 mg | C(C1=CC=CC=C1)N1C[C@]2(CCC3=C([C@H]2C1)C=CC=C3C3CC3)C | C23H27N
reactant | ACE-Cl | 1.654 mmol, 182 μl | CC(OC(=O)Cl)Cl | C3H4Cl2O2
reactant | MeOH | 1 ml | CO | CH4O
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | cis-6-cyclopropyl-3a-methyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole hydrochloride | 8.8 mg | Cl.C1(CC1)C1=CC=CC=2[C@H]3CNC[C@]3(CCC21)C | InChI=1S/C16H21N.ClH/c1-16-8-7-13-12(11-5-6-11)3-2-4-14(13)15(16)9-17-10-16;/h2-4,11,15,17H,5-10H2,1H3;1H/t15-,16-;/m1./s1
